US06875765B2
2-Benzyloxy-6-methoxy-3 nitro-pyridine (3.41 g, 13.1 mmol) was shaken with 1 g Rainey nickel in 100 mL THF in a Parr hydrogenation apparatus at 48 psi H2 for 20 h. TLC analysis (silica, CH2Cl2) indicated complete consumption of starting material. The reaction mixture was filtered and concentrated. The crude product was purified by gradient elution flash chromatography (SiO2, 1:1 CH2Cl2/hexanes to 3:1 CH2Cl2/hexanes to 100% CH2Cl2) to give 1.65 g (7.17 mmol, 55%) of 2-benzyloxy-6-methoxy-pyridin-3-ylamine. MS (APCI) m/z 231.2 (M+1). 1H NMR (300 MHz) CDCl3 7.29-7.48 (m, 5H), 6.98 (d, J=8.1 Hz, 1H), 6.19 (d, J=8.1 Hz, 1H), 5.42 (s, 2H), 3.84 (s, 3H).

reactant | 2-Benzyloxy-6-methoxy-3 nitro-pyridine | 13.1 mmol, 3.41 g | C(C1=CC=CC=C1)OC1=NC(=CC=C1[N+](=O)[O-])OC | C13H12N2O4
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | nickel | [Ni] | Ni
product | 2-benzyloxy-6-methoxy-pyridin-3-ylamine | 7.17 mmol, 1.65 g, 55% | C(C1=CC=CC=C1)OC1=NC(=CC=C1N)OC | C13H14N2O2
